US20010007903A1
Under nitrogen atmosphere, 1.35 ml of sodium methoxide (6.5 m mol) was added slowly to a solution of 1.50 g of 1-methyl-4-benzoylthiomethylpyrazole in THF (6 ml) and DMF (18 ml) at 0° C. Stirring was continued for 1 hour. The mixture was cooled to −65° C. with dry ice/ethanol bath, and added to a solution of 4.36 g of diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-methanesulfonyloxy-3-cephem-4-carboxylate in a mixture of THF (15 ml) and DMF (25 ml) at the same temperature. After stirring for 1 hour, the reaction was quenched with 10% hydrochloric acid, and the mixture was poured into water—ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulfate. After filtration, the filtrate was concentrated in vacuao, the residue was purified on silica gel (eluent: dichloromethane-acetone) to afford diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(1-methylpyrazol-4-yl)methylthio]-3-cephem-4-carboxylate (2.15 g).

reactant | sodium methoxide | 1.35 ml | C[O-].[Na+]
reactant | 1-methyl-4-benzoylthiomethylpyrazole | 1.50 g | CN1N=CC(=C1)CSC(C1=CC=CC=C1)=O | C12H12N2OS
reactant | diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-methanesulfonyloxy-3-cephem-4-carboxylate | 4.36 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H37N5O8S3
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(1-methylpyrazol-4-yl)methylthio]-3-cephem-4-carboxylate | 2.15 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NN(C2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C49H41N7O5S3
